US06818644B1
a. 1-Benzyl-4-biphenyl-4-yl-piperazine
1.6 ml (0.05 mol) of butyllithium solution in n-hexane is added dropwise to a solution of 8.81 g (0.05 mol) of 1-benzylpiperazine in 50 ml of anhydrous THF under argon at 0° C. and stirred for one hour. Then 9.21 g (0.05 mol) of 4-methoxybiphenyl are added and the reaction mixture is refluxed for 12 hours. The solvent is then evaporated off, the residue is combined with 150 ml of 2 N hydrochloric acid followed by diethyl ether and the precipitate formed is filtered off. The precipitate is washed with diethyl ether, suspended in 20% sodium carbonate solution and extracted several times with dichloromethane. After drying over magnesium sulphate the solvent is removed and the residue is washed with ethyl acetate and diethyl ether.

reactant | butyllithium | 0.05 mol, 1.6 ml | C(CCC)[Li]
reactant | 1-benzylpiperazine | 0.05 mol, 8.81 g | C(C1=CC=CC=C1)N1CCNCC1 | C11H16N2
reactant | 4-methoxybiphenyl | 0.05 mol, 9.21 g | COC1=CC=C(C=C1)C1=CC=CC=C1 | C13H12O
solvent | n-hexane | CCCCCC | C6H14
solvent | THF | 50 ml | C1CCOC1 | C4H8O
product | 1-Benzyl-4-biphenyl-4-yl-piperazine | C(C1=CC=CC=C1)N1CCN(CC1)C1=CC=C(C=C1)C1=CC=CC=C1 | C23H24N2
